US07906645B2
N-(5-Chloro-1,3-thiazol-2-yl)piperazine-1-carboxamide
Phenyl chloroformate (0.305 mL) was added slowly to a stirring solution of 5-chloro-1,3-thiazol-2-amine hydrochloride (400 mg) in THF (5 mL) containing triethylamine (0.98 mL) under an argon atmosphere. After 1 h N-Boc piperazine was added and the reaction was heated to reflux for 1 h. The reaction mixture was taken up in 1M NaOH (10 mL) and DCM (30 mL) and organic layer was separated and washed with 1 MHCl (aq.) (10 mL). The DCM layer was then dried (MgSO4), filtered and evaporated. Purification by column chromatography 1:4 to 1:1 EtOAc:isohexanes afforded the title compound (278 mg) as a white solid which was used without purification

reactant | Phenyl chloroformate | 0.305 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 5-chloro-1,3-thiazol-2-amine hydrochloride | 400 mg | Cl.ClC1=CN=C(S1)N
reactant | triethylamine | 0.98 mL | C(C)N(CC)CC | C6H15N
reactant | N-Boc piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | NaOH | 1M, 10 mL | [OH-].[Na+]
product | N-(5-Chloro-1,3-thiazol-2-yl)piperazine-1-carboxamide | 278 mg | ClC1=CN=C(S1)NC(=O)N1CCNCC1 | C8H11ClN4OS
